US05180735
In dichloromethane (5 ml) was dissolved 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-iodomethyl-1,4-cyclohexanediol (2.08 g). To the solution were added dimethylaminopyridine (0.74 g) and acetic anhydride (0.58 ml). The mixture was stirred for 30 minutes. The reaction mixture was diluted with ethyl acetate (50 ml), which was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, then the solvent was purified by means of a silica gel column chromatography (carrier 100 g, developing solvent: ethyl acetate - hexane=1:3) to afford 4-O-acetyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-iodomethyl-3-methoxy-1,4-cyclohexanediol (2.19 g: yield 95%) as a colorless oily product.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy-1-iodomethyl-1,4-cyclohexanediol | 2.08 g | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CI | C16H27IO4
reactant | dimethylaminopyridine | 0.74 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 0.58 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-O-acetyl-2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-iodomethyl-3-methoxy-1,4-cyclohexanediol | 2.19 g, yield 95% | C(C)(=O)OC1C(C(C(CC1)(O)CI)C1(C(CC=C(C)C)O1)C)OC | C18H29IO5
